US08703946B2
34. 2-Phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine
The compound was prepared from [2-(5-formyl-3-phenoxymethyl-pyrazol-1-yl)-ethyl]-carbamic acid tert-butyl ester using the method described in the preceding example 24 (4-methyl-2-phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine).

reactant | [2-(5-formyl-3-phenoxymethyl-pyrazol-1-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN1N=C(C=C1C=O)COC1=CC=CC=C1)=O | C18H23N3O4
reactant | 4-methyl-2-phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine | CC=1C=2N(CCN1)N=C(C2)COC2=CC=CC=C2 | C14H15N3O
product | 2-Phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine | O(C1=CC=CC=C1)CC1=NN2C(C=NCC2)=C1 | C13H13N3O
